US08217027B2
To a suspension of magnesium (1.477 g, 60.8 mmol) in THF (56 mL) was added 1-bromo-4-octylbenzene (15.00 g, 55.7 mmol). After stirring for about 6 h the reaction mixture was added with filtering to a solution of 3-ethoxycyclohex-2-enone (7.10 g, 50.6 mmol) in THF (28.0 mL) at 0° C. Following the addition the reaction mixture was allowed to warm to room temperature. After 1 h 1N HCl was added until a pH of 1 was obtained. The reaction mixture was diluted with Et2O and the organic layer was separated, washed with NaHCO3, and brine, dried with (Na2SO4, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica gel (EtOAc/Hep) to provide 3-(4-octylphenyl)cyclohex-2-enone (9.5 g, 33.4 mmol, 65.9% yield) as a colorless oil.

reactant | magnesium | 60.8 mmol, 1.477 g | [Mg] | Mg
reactant | 1-bromo-4-octylbenzene | 55.7 mmol, 15.00 g | BrC1=CC=C(C=C1)CCCCCCCC | C14H21Br
reactant | 3-ethoxycyclohex-2-enone | 50.6 mmol, 7.10 g | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 56 mL | C1CCOC1 | C4H8O
solvent | THF | 28.0 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 3-(4-octylphenyl)cyclohex-2-enone | 33.4 mmol, 9.5 g, 65.9% yield | C(CCCCCCC)C1=CC=C(C=C1)C1=CC(CCC1)=O | C20H28O
